US05523319
This synthesis was carried out by reaction of the silyl enol of ε-caprolactone with chloromethyl phenyl sulphide in the presence of a catalytic amount of zinc chloride to give the sulphurized compound, which was oxidized into sulphoxide using sodium metaperiodate. Pyrolysis of the sulphoxide in refluxing toluene gave α-methylene-ε-caprolactone.

reactant | ε-caprolactone | C1(CCCCCO1)=O | C6H10O2
reactant | chloromethyl phenyl sulphide | C1(=CC=CC=C1)SCCl | C7H7ClS
reactant | sodium metaperiodate | I(=O)(=O)(=O)[O-].[Na+]
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | α-methylene-ε-caprolactone | C=C1C(=O)OCCCC1 | C7H10O2
